US05578630
A suspension of N-methyl-4-toluamide (100 g) in anhydrous tetrahydrofuran (2 l) was cooled to -28° and n-butyl lithium (580 ml of 2.5M solution in hexanes) was added dropwise maintaining the temperature at -20° to -25°. The resultant solution was stirred at -20° for 2 h, then cooled to -42° and acetone (175 ml) added dropwise maintaining the temperature below -42°. Stirring was continued at -35° to -42° for 1 h before glacial acetic add (39 ml) was added. The mixture was stirred without further cooling for 90 min and then poured into aqueous HCl (1N, 1.4 l) and ethyl acetate (0.5 l). The organic phase was washed with brine (3'1 l), dried over sodium sulphate and concentrated and dried in vacuo. The solid was dissolved in hot methylene chloride (350 ml) and cooled to 3°. The filtrate was treated with hexane (50 ml) and cooled to 3°. The filtrate was dissolved in methylene chloride (1 l) and heated to reflux in the presence of aqueous HCl(6N, 1 l) for 6 h. The organic phase was separated and again heated to reflux in the presence of aqueous HCl (6N, 1 l) for 7 h. The organic phase was separated and washed with saturated aqueous sodium bicarbonate (2'1 l) and concentrated in vacuo to give 3,3,5-trimethyl-3H-isobenzofuran-1-one. HPLC and NMR data were consistent with the product obtained in Preparation A (a) and with its structure.

reactant | N-methyl-4-toluamide | 100 g | CNC(=O)C1=CC=C(C=C1)C | C9H11NO
reactant | n-butyl lithium | 2.5M, 580 ml | C(CCC)[Li]
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | HCl | 1N, 1.4 l | Cl | ClH
solvent | tetrahydrofuran | 2 l | O1CCCC1 | C4H8O
solvent | ethyl acetate | 0.5 l | C(C)(=O)OCC | C4H8O2
solvent | acetone | 175 ml | CC(=O)C | C3H6O
product | 3,3,5-trimethyl-3H-isobenzofuran-1-one | CC1(OC(C2=CC=C(C=C12)C)=O)C | C11H12O2
